US08026241B2
(a) 5-Bromo-6-trifluoromethyl-2-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazole
To a solution of 6-bromo-5-trifluoromethyl-2-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-1H-benzoimidazole (203 mg, 0.41 mmol, Example 89 g) in dichloromethane (6 mL) was added N,N-diisopropylethylamine (148 mg, 1.15 mmol) followed by 2-(trimethylsilyl)ethoxymethyl chloride (94 mg, 0.57 mmol, Aldrich). The reaction mixture was stirred at room temperature for 16 h. The solvent was removed in vacuo and the residue was purified by silica gel column chromatography, eluting with EtOAc/hexane (1:3) to afford the title compound as an amorphous solid. MS (ESI, pos. ion) m/z: 624 (M+1).

reactant | 6-bromo-5-trifluoromethyl-2-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-1H-benzoimidazole | 0.41 mmol, 203 mg | BrC=1C(=CC2=C(NC(=N2)N2CCN(CC2)C2=NC=CC=C2C(F)(F)F)C1)C(F)(F)F | C18H14BrF6N5
reactant | N,N-diisopropylethylamine | 1.15 mmol, 148 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.57 mmol, 94 mg | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 5-Bromo-6-trifluoromethyl-2-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazole | BrC1=CC2=C(N(C(=N2)N2CCN(CC2)C2=NC=CC=C2C(F)(F)F)COCC[Si](C)(C)C)C=C1C(F)(F)F | C24H28BrF6N5OSi
